US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5 H)-yl)-6-(trifluoromethoxy)quinolin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-(trifluoromethoxy)quinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide and propane-1,3-diamine. MS obsd. (ESI+) [(M+H)+] 481, 1H NMR (400 MHz, CD3OD) δ ppm 8.16-8.15 (d, J=2.4 Hz, 1 H), 8.09-8.07 (dd, J=5.2, 8.0 Hz, 1 H), 7.94-7.92 (d, J=10 Hz, 1 H), 7.90-7.88 (d, J=8 Hz, 1 H), 7.72-7.70 (m, 2 H), 7.58-7.55 (m, 1 H), 6.03 (s, 1 H), 5.34 (s, 2 H), 4.55 (s, 2 H), 3.75 (s, 2 H), 3.62-3.59 (t, J=6.8 Hz, 2 H), 3.14-3.10 (t, J=8.0 Hz, 2 H), 2.15-2.11 (m, 2 H).

reactant | 4-(4-chloro-6-(trifluoromethoxy)quinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)OC(F)(F)F)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H14ClF3N2O3S
reactant | propane-1,3-diamine | C(CCN)N | C3H10N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5 H)-yl)-6-(trifluoromethoxy)quinolin-4-yl]propane-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCCN)OC(F)(F)F)=O | C22H23F3N4O3S
